US05654301
Synthesis of 2-Acetamido-4-pentenoic acid-N-benzylamide.
4-Methylmorpholine (0.55 g, 5.40 mmol) was added to a cooled (-10° to -15° C.) THF solution (60 mL) of 2-acetamido-4-pentenoic acid (0.81 g, 5.18 mmol), and then isobutylchloroformate (0.75 g. 5.70 mmol) was added leading to the precipitation of a white solid. After 2 min, a solution of benzylamine (0.61 g, 5.70 mmol) in THF (10 mL) was slowly added at -10° to -15° C. The reaction was allowed to warm (5 min) at room temperature and the insoluble salts were removed by filteration, and the filtrate was evaporated to dryness. The residue was triturated with EtOAc (10 mL), and the remaining white solid was filtered to give 0.81 g (64%) of the desired product: mp 118°-120° C. (recrystallized from ethyl acetate/cyclohexane); Rf 0.36 (4% MeOH/CHCl3); IR (KBr) 3200 (br), 3040, 2900, 1650 (br), 1540 (br), 1350, 750, 700 cm-1 ; 1H NMR (DMSO-d6) δ 1.83 (s, C(O)CH3), 2.22-2.49 (m, CH2CH=CH2), 4.26 (d, J=5.3 Hz, CH2Ph), 4.25-4.33 (m, CH), 4.99-5.09 (m, CH2CH=CH2), 5.65-5.77 (m, CH2CH=CH2), 7.21-7.29 (m, 5 PhH), 8.05 (d, J=7.6 Hz, NH), 8.46 (br s, NH); 13C NMR (DMSO-d6) 22.41 (C(O)CH3), 36.24 (CH2CH=CH2), 41.91 (CH2Ph), 52.20 (CH), 117.15 (CH2CH=CH2), 126.54 (C4'), 126.99 (2C2' or 2C3'), 128.04 (2C2' or 2C3'), 139.25 (C1'), 134.25 (CH2CH=CH2), 169.02 (C(O)CH3), 170.96 (C(O)NH) ppm; mass spectrum, m/e (relative intensity) 246 (M+, 4), 205 (4), 163 (15), 140 (8), 106 (33), 91 (77), 70 (100).

reactant | 4-Methylmorpholine | 5.40 mmol, 0.55 g | CN1CCOCC1 | C5H11NO
reactant | 2-acetamido-4-pentenoic acid | 5.18 mmol, 0.81 g | C(C)(=O)NC(C(=O)O)CC=C | C7H11NO3
reactant | isobutylchloroformate | 5.70 mmol, 0.75 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | benzylamine | 5.70 mmol, 0.61 g | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-Acetamido-4-pentenoic acid-N-benzylamide | 0.81 g, 64% | C(C1=CC=CC=C1)NC(C(CC=C)NC(C)=O)=O | C14H18N2O2
